US08809539B2
A solution of bis(2-chloroethyl)benzylamine, hydrochloride (3.4 g 12.6 mmol) in iced water (10 mL) is made alcaline with a 5N aqueous solution of sodium hydroxyde. Extraction with ethyl acetate, drying of the organic phase over magnesium sulphate and evaporation under reduced pressure affords bis(2-chloroethyl)benzylamine.

reactant | bis(2-chloroethyl)benzylamine, hydrochloride | 12.6 mmol, 3.4 g | Cl.ClCCN(CC1=CC=CC=C1)CCCl
reactant | sodium | [Na] | Na
solvent | water | 10 mL | O | H2O
product | bis(2-chloroethyl)benzylamine | ClCCN(CC1=CC=CC=C1)CCCl | C11H15Cl2N
